US07601744B2
(3R)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl)-N-methyl-3-phenylpropan-1-amine
In an analogous manner to Example 2, step 6, 1-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (3R)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl)-N-methyl-3-phenylpropan-1-amine hydrochloride was prepared from 1-[(1R)-3-chloro-1-phenylpropyl]-3-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide and methyl amine. MS (ES) m/z 360.1; HRMS: calculated for C19H25N3O2S+H+, 360.17402; found (ESI, [M+H]+), 360.1754; [□]D25=57.4° (c=10 mg/mL, MeOH).

reactant | 1-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (3R)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl)-N-methyl-3-phenylpropan-1-amine hydrochloride | Cl.C(C)(C)N1S(N(C2=C1C=CC=C2)[C@H](CCNC)C2=CC=CC=C2)(=O)=O.C(C)(C)N2S(NC1=C2C=CC=C1)(=O)=O
reactant | 1-[(1R)-3-chloro-1-phenylpropyl]-3-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | ClCC[C@H](C1=CC=CC=C1)N1S(N(C2=C1C=CC=C2)C(C)C)(=O)=O | C18H21ClN2O2S
reactant | methyl amine | CN | CH5N
solvent | MeOH | CO | CH4O
product | (3R)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl)-N-methyl-3-phenylpropan-1-amine | C(C)(C)N1S(N(C2=C1C=CC=C2)[C@H](CCNC)C2=CC=CC=C2)(=O)=O | C19H25N3O2S
